US20010018068A1
Melt Myristic acid at 65° C. Separately heat water, sodium hydroxide and sodium chloride at 80° C. When at temperature, add to Myristic acid to form sodium Myristate, mix gently until reacted. Add surfactants (Cocoamidopropyl Betaine and Sodium Lauryl Sarcosinate) and mix until dissolved. Add glycerine and SDBAC & mix for 10 minutes. Add petrolatum and mix at low speed to avoid shearing into small particle size. Allow to cool & set. Re-melt temperature is around 70° C.

reactant | Myristic acid | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
product | sodium Myristate | C(CCCCCCCCCCCCC)(=O)[O-].[Na+] | InChI=1S/C14H28O2.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-14(15)16;/h2-13H2,1H3,(H,15,16);/q;+1/p-1
